US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(2-oxocyclohexan-1-yl)-2H-pyrazolo[3,4-b]pyridine
To a solution of 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1,4-dioxa-spiro[4,5]decan-6-yl)-2H-pyrazolo[3,4-b]pyridine (1.0 g) in methanol (30 mL) was added 4N HCl dioxane solution (6.0 mL) at room temperature and the mixture was heated at 60° C. for two hours. After alkalification with sodium bicarbonate, the mixture was extracted with chloroform. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give the title compound (20 mg) as colorless crystals.

reactant | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1,4-dioxa-spiro[4,5]decan-6-yl)-2H-pyrazolo[3,4-b]pyridine | 1.0 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2C3(OCCO3)CCCC2)=NNC1 | C21H20N6O3
reactant | HCl dioxane | 4N, 6.0 mL | O1CCOCC1.Cl
solvent | methanol | 30 mL | CO | CH4O
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(2-oxocyclohexan-1-yl)-2H-pyrazolo[3,4-b]pyridine | 20 mg | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2C(CCCC2)=O)=NNC1 | C19H16N6O2
